US09107916B2
A. 3-({[1-(4-cyanopyridin-2-yl)-1H-pyrazol-5-yl]oxy}methyl)phenyl acetate
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and 3-(hydroxymethyl)phenyl acetate according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 2.24 (3H, s), 5.17 (2H, s), 5.66 (1H, d, J=1.6 Hz), 7.01-7.03 (1H, m), 7.14 (1H, s), 7.20-7.22 (1H, m), 7.32-7.36 (2H, m), 7.49 (1H, d, J=1.6 Hz), 7.97 (1H, s), 8.63 (1H, d, J=4.8 Hz). [M+H] Calc'd for C18H14N4O3, 335. Found, 335.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | 3-(hydroxymethyl)phenyl acetate | C(C)(=O)OC1=CC(=CC=C1)CO | C9H10O3
product | 3-({[1-(4-cyanopyridin-2-yl)-1H-pyrazol-5-yl]oxy}methyl)phenyl acetate | C(C)(=O)OC1=CC(=CC=C1)COC1=CC=NN1C1=NC=CC(=C1)C#N | C18H14N4O3
